US08859641B2
Preparation of Styrene Maleimide Nano-Particles Having a Palm Oil Content of 40 wt %
To a 1 liter double walled, oil heated autoclave, having an anchor stirrer 225 g of SMA and 334.4 g of water were added. The SMA had a maleic anhydride content of 26 mole % and a molecular weight of 80.000 g/mole. To this reaction mixture was added 150 g of palm oil (from Cargill, USA) and 40.6 g of a 25% NH3 solution so that the maleic anhydride (MA):NH3 ratio was about 1:1.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | NH3 | N | H3N
solvent | water | 334.4 g | O | H2O
product | Styrene Maleimide | C1(C=CC(N1)=O)=O.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H3NO2/c1-2-8-6-4-3-5-7-8;6-3-1-2-4(7)5-3/h2-7H,1H2;1-2H,(H,5,6,7)
